US05134111
(c) Preparation of (E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-napthyl)-2-butenoic acid
280 mg of (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-butenoic acid was dissolved in 8 ml of acetone, to which 1 ml of concentrated hydrochloric acid was added at room temperature. After stirring for 1 hour, 30 ml of water was added, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and evaporated to obtain 177 mg of the titled compound as pale yellow crystals.

reactant | (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-2-butenoic acid | 280 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C(=C/C(=O)O)/C)OC)OCOC | C19H22O5
reactant | water | 30 ml | O | H2O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | (E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-napthyl)-2-butenoic acid | 177 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C(=C/C(=O)O)/C)OC)O | C17H18O4
